US07067537B2
Production of 2-fluoro-N,N-dimethyl-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzamide
By the reaction in the same manner as in Example 60 using 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoic acid (201 mg), thionyl chloride (0.06 ml) and aqueous dimethylamine solution (50%, 5 ml), the title compound (90 mg) was obtained as a colorless amorphous compound.

reactant | 2-fluoro-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzoic acid | 201 mg | FC1=C(C(=O)O)C=C(C=C1)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C16H8F4N2O2S
reactant | thionyl chloride | 0.06 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | 5 ml | CNC | C2H7N
product | 2-fluoro-N,N-dimethyl-5-{2-[4-(trifluoromethyl)pyridin-3-yl]-1,3-thiazol-4-yl}benzamide | 90 mg | FC1=C(C(=O)N(C)C)C=C(C=C1)C=1N=C(SC1)C=1C=NC=CC1C(F)(F)F | C18H13F4N3OS
